US08669234B2
{1-[2-(5-Ethynyl-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester (53 mg, 0.166 mmol), (1-{2-[5-(6-Bromo-naphthalen-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (100 mg, 0.200 mmol), Pd(PPh3)4 (19 mg, 0.0166 mmol), CuI (3 mg, 0.0166 mmol) and triethylamine (0.230 mL, 1.66 mmol) were suspended in DMF (2 mL) and the mixture was degassed for 10 min with nitrogen. The reaction mixture was stirred at 80° C. for 1 hours then cooled to RT. Formic acid (0.1 mL) and water (1 mL) were added and the mixture was purified by reverse phase preparative HPLC, giving (1-{2-[5-(6-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-ylethynyl}-naphthalen-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (24 mg, 20%). (DMSO-d6, 400 MHz) 12.00-11.85 (m, 2H), 7.99-7.83 (m, 4H), 7.64 (s, 1H), 7.48 (m, 1H), 7.42 (s, 1H), 7.29 (m, 2H), 5.10 (m, 1H), 5.03 (m, 1H), 4.06 (m, 2H), 3.82-3.76 (m, 4H), 3.54 (s, 6H), 2.15-1.97 (m, 10H), 0.94-0.81 (m, 12H); MS (ESI) m/z 737 [M+H]+.

reactant | {1-[2-(5-Ethynyl-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | 0.166 mmol, 53 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C#C)=O | C16H22N4O3
reactant | (1-{2-[5-(6-Bromo-naphthalen-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.200 mmol, 100 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC2=CC=C(C=C2C=C1)Br)=O | C24H27BrN4O3
reactant | triethylamine | 1.66 mmol, 0.230 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.0166 mmol, 19 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.0166 mmol, 3 mg | [Cu]I
product | (1-{2-[5-(6-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-ylethynyl}-naphthalen-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 24 mg, 20% | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC2=CC=C(C=C2C=C1)C#CC=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)=O | C40H48N8O6
